US08486953B2
4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carbonitrile
To a stirred suspension of 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide (0.1 g, 0.25 mmol) in DCM/pyridine (2.5 mL; 4:1) was added trifluoroacetic anhydride (0.138 mL, 1.0 mmol) at 0° C. and the mixture stirred for 4 hours. The reaction was quenched with ice and adjusted to pH 7 with saturated sodium hydrogen carbonate solution. The mixture was partitioned between DCM (10 mL) and water (10 mL). The aqueous phase was washed with DCM (10 mL) and the combined organic layers dried (MgSO4) filtered and concentrated in vacuo. The crude product was purified by flash column chromatography (DCM→49:1 DCM/MeOH) to give the title compound as a pale yellow solid (0.065 g, 68%) after crystallisation from MeOH.

reactant | 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | 0.25 mmol, 0.1 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)OC2CCOCC2 | C19H19FN4O3S
reactant | trifluoroacetic anhydride | 1.0 mmol, 0.138 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM pyridine | 2.5 mL | C(Cl)Cl.N1=CC=CC=C1
product | 4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carbonitrile | 0.065 g, 68% | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C#N)OC2CCOCC2 | C19H17FN4O2S
